### PR TITLE
[Merged by Bors] - feat(FieldTheory/Galois/IsGaloisGroup): Galois groups for quotients by normal subgroups

### PR DESCRIPTION
**Pull request by xroblot**
Assume `G `is a finite Galois group for `L/K`, `N ⊴ G` is normal, and `F = Fix(N)`. This PR proves:
- `G ⧸ N` acts on `F` via `(g.N) • x := g • x` as a `MulSemiringAction`. Under `SMulCommClass G K L`, it is also `SMulCommClass (G ⧸ N) K F`
- instance `quotient` : `IsGaloisGroup (G ⧸ N) K F` — the quotient group is a Galois group for the intermediate extension `F/K`.
- theorem `quotientMap` under the hypothesis  ` E ≤ F`: `IsGaloisGroup (H.map (QuotientGroup.mk' N)) E F` — if `H` is the Galois group for `L/E`, the image of `H` under the quotient map is a Galois group for `F/E`.

---

- [x] depends on: #36365 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 1]
```diff
@@ -287,6 +287,43 @@ instance subgroup [hGKL : IsGaloisGroup G K L] :
   commutes := inferInstanceAs <| SMulCommClass H (FixedPoints.subfield H L) L
   isInvariant := ⟨fun x h ↦ ⟨⟨x, h⟩, rfl⟩⟩
 
+set_option backward.isDefEq.respectTransparency false in
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:291]: Can you please tag `IntermediateField.toSubfield` (l.73 of `FieldTheory/IntermediateField/Basic.lean`) with `@[implicit_reducible]`? Once this is done, all of the `set_option backward.isDefEq.respectTransparency` can be removed.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 2]
```diff
@@ -401,4 +438,72 @@ end IsGaloisGroup
...
+    IsGaloisGroup (H.map (QuotientGroup.mk' N)) E F :=
+  let hFN : IsGaloisGroup (G ⧸ N) K F := inferInstance
+  let : Algebra E F := (IntermediateField.inclusion h).toAlgebra
+  { faithful := by have := hFN.faithful; exact inferInstance
+    commutes := ⟨by
+      intro ⟨_, g, hg, rfl⟩ x y
+      exact FaithfulSMul.algebraMap_injective F L (hE.commutes.smul_comm ⟨g, hg⟩ x (y : L))⟩
+    isInvariant := ⟨fun x h ↦ by
+      obtain ⟨a, ha⟩ := hE.isInvariant.isInvariant x
+        fun ⟨g, hg⟩ ↦ congr_arg Subtype.val (h ⟨g, ⟨g, hg, rfl⟩⟩)
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
        fun ⟨g, hg⟩ ↦ congr_arg Subtype.val (h ⟨g, g, hg, rfl⟩)
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 3]
```diff
@@ -401,4 +438,72 @@ end IsGaloisGroup
...
+
+variable (E : IntermediateField K L) (H : Subgroup G) [hE : IsGaloisGroup H E L]
+
+set_option backward.isDefEq.respectTransparency false in
+theorem quotientMap (h : E ≤ F) :
+    letI : Algebra E F := (IntermediateField.inclusion h).toAlgebra
+    IsGaloisGroup (H.map (QuotientGroup.mk' N)) E F :=
+  let hFN : IsGaloisGroup (G ⧸ N) K F := inferInstance
+  let : Algebra E F := (IntermediateField.inclusion h).toAlgebra
+  { faithful := by have := hFN.faithful; exact inferInstance
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
  { faithful := by have := hFN.faithful; infer_instance
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 4]
```diff
@@ -401,4 +438,72 @@ end IsGaloisGroup
...
+    intro x hx
+    rw [mul_smul, inv_smul_eq_iff]
+    simpa [eq_comm, coe_quotient_smul] using congr_arg Subtype.val <| h ⟨x, hx⟩⟩
+  commutes := inferInstance
+  isInvariant := ⟨fun x h ↦ by
+    have : ∀ (g : G), g • (x : L) = x := fun g ↦ by
+      simpa [coe_quotient_smul] using congr_arg Subtype.val (h g)
+    obtain ⟨a, ha⟩ := hK.isInvariant.isInvariant x this
+    refine ⟨a, ?_⟩
+    apply FaithfulSMul.algebraMap_injective F L
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
    refine ⟨a, FaithfulSMul.algebraMap_injective F L ?_⟩
    rw [← IsScalarTower.algebraMap_apply, ha, IntermediateField.algebraMap_apply]
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 5]
```diff
@@ -401,4 +438,72 @@ end IsGaloisGroup
...
+variable [hK : IsGaloisGroup G K L] [Finite G]
+
+set_option backward.isDefEq.respectTransparency false in
+instance quotient : IsGaloisGroup (G ⧸ N) K F where
+  faithful := ⟨fun {g₁} {g₂} ↦ Quotient.inductionOn₂' g₁ g₂ fun g₁ g₂ h ↦ by
+    rw [QuotientGroup.eq, ← fixingSubgroup_fixedPoints G K L N, subgroup_iff.mp hF,
+      mem_fixingSubgroup_iff]
+    intro x hx
+    rw [mul_smul, inv_smul_eq_iff]
+    simpa [eq_comm, coe_quotient_smul] using congr_arg Subtype.val <| h ⟨x, hx⟩⟩
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Purely cosmetic and hence optional, but you can also "flatten" the fields like this, removing
the need of wrapping things in `⟨⟩`:
```suggestion
  faithful.eq_of_smul_eq_smul {g₁} {g₂} := Quotient.inductionOn₂' g₁ g₂ fun g₁ g₂ h ↦ by
    rw [QuotientGroup.eq, ← fixingSubgroup_fixedPoints G K L N, subgroup_iff.mp hF,
      mem_fixingSubgroup_iff]
    intro x hx
    rw [mul_smul, inv_smul_eq_iff]
    simpa [eq_comm, coe_quotient_smul] using congr_arg Subtype.val <| h ⟨x, hx⟩
```

Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Nice trick

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:291]: That's great. I was able to remove also the `set_option backward.isDefEq.respectTransparency` in HilberTheory.lean thanks to that!

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 6]
```diff
@@ -423,4 +437,68 @@ end IsGaloisGroup
...
+
+instance quotient : IsGaloisGroup (G ⧸ N) K F where
+  faithful.eq_of_smul_eq_smul := fun {g₁} {g₂} ↦ Quotient.inductionOn₂' g₁ g₂ fun g₁ g₂ h ↦ by
+    rw [QuotientGroup.eq, ← fixingSubgroup_fixedPoints G K L N, subgroup_iff.mp hF,
+      mem_fixingSubgroup_iff]
+    intro x hx
+    rw [mul_smul, inv_smul_eq_iff]
+    simpa [eq_comm, coe_quotient_smul] using congr_arg Subtype.val <| h ⟨x, hx⟩
+  commutes := inferInstance
+  isInvariant.isInvariant := fun x h ↦ by
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:480]:
```suggestion
  isInvariant.isInvariant x h := by
```
untested

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 7]
```diff
@@ -423,4 +437,68 @@ end IsGaloisGroup
...
+theorem quotientMap (h : E ≤ F) :
+    letI : Algebra E F := (IntermediateField.inclusion h).toAlgebra
+    IsGaloisGroup (H.map (QuotientGroup.mk' N)) E F :=
+  let hFN : IsGaloisGroup (G ⧸ N) K F := inferInstance
+  let : Algebra E F := (IntermediateField.inclusion h).toAlgebra
+  { faithful := by have := hFN.faithful; infer_instance
+    commutes := ⟨by
+      intro ⟨_, g, hg, rfl⟩ x y
+      exact FaithfulSMul.algebraMap_injective F L (hE.commutes.smul_comm ⟨g, hg⟩ x (y : L))⟩
+    isInvariant := ⟨fun x h ↦ by
```
Comment (robin-carlier) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:499]: You can also do `isInvariant.isInvariant x h := by` here if you want.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate
